US03969506
Step A: Preparation of N-(p-fluorobenzyl)isatoic anhydride
To a solution of 16.3 g. of isatoic anhydride in 200 ml. of dimethylacetamide at room temperature is added sodium hydride obtained from 5.0 g. of 57% solution in mineral oil. The resulting mixture is stirred for 20 minutes and 16 g. of p-fluorobenzyl chloride is added followed by stirring at room temperature for about 15 hours. The resulting mixture is concentrated in vacuo to about one half its volume, a mixture of ice and water added and the resulting precipitate filtered off, washed with water, dried under suction and washed with pentane. The solid material is then dissolved in methylene chloride, dried with sodium sulfate, treated with charcoal and about twice the volume of diethyl ether added to crystallize N-(p-fluorobenzyl)isatoic anhydride, m.p. 142°-145°C.

reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | sodium hydride | [H-].[Na+]
reactant | p-fluorobenzyl chloride | FC1=CC=C(CCl)C=C1 | C7H6ClF
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | N-(p-fluorobenzyl)isatoic anhydride | FC1=CC=C(CN2C=3C(C(=O)OC2=O)=CC=CC3)C=C1 | C15H10FNO3
